US03973966
Oxygen derivatives analogous to those of Examples IX and X may be prepared as follows: 9-acetyl-10-hydroxyphenanthrene and the appropriate aldehyde or ketone according to Example IX in benzene are added to a solution of sodium t-butoxide in benzene and the resulting mixture refluxed for 20 hours with stirring. The reaction mixture is poured into a stirred solution of hydrobromic acid (3 parts) and acetic acid (2 parts). The benzene layer is steam distilled and the residue boiled with methanol saturated with dry hydrogen chloride 0.5-1 hour to drive the cyclization to completion. After the solvent has been removed, the chroman-4-one is isolated by chromatography and crystallization from petroleum ether solvent.

reactant | Oxygen | O=O | O2
reactant | 9-acetyl-10-hydroxyphenanthrene | C(C)(=O)C=1C2=CC=CC=C2C=2C=CC=CC2C1O | C16H12O2
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
reactant | hydrobromic acid | Br | BrH
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | chroman-4-one | O1CCC(C2=CC=CC=C12)=O | C9H8O2
